US07910774B2
A solution of 16.5 g of (3R,6S,7aS)-6-isopropyl-3-phenyltetrahydro-pyrrolo[1,2-c]oxazol-5-one in 175 mL of dichloromethane is treated with 15.35 g of trifluoroacetic acid at room temperature. The resulting solution is stirred for 24 hours at room temperature and a further 14 g of trifluoroacetic acid added. Stirring is continued for a further 24 hours and the solvent removed in vacuum. The residue is treated with 50 mL of water and 100 mL of dichloromethane and the pH of the two-phase mixture adjusted to 12 with concentrated sodium hydroxide solution. Solid sodium chloride is added and the mixture stirred. The organic layer is removed under reduced pressure to give (3S,5S)-5-hydroxymethyl-3-isopropyl-pyrrolidin-2-one as a semi-solid. mp. 55.9° C., [α]D=+47.9° (1% in MeOH)

reactant | (3R,6S,7aS)-6-isopropyl-3-phenyltetrahydro-pyrrolo[1,2-c]oxazol-5-one | 16.5 g | C(C)(C)[C@@H]1C[C@@H]2N([C@H](OC2)C2=CC=CC=C2)C1=O | C15H19NO2
reactant | trifluoroacetic acid | 15.35 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 14 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 175 mL | ClCCl | CH2Cl2
product | (3S,5S)-5-hydroxymethyl-3-isopropyl-pyrrolidin-2-one | OC[C@@H]1C[C@H](C(N1)=O)C(C)C | C8H15NO2
